data/oMe_Silver.jsonl
{"reaction_id": "NR-330_1-N(CC)CC_2-C#N_3-OC_4-C#N_5-C1CCCCC1_6-F_7-C_8-CC(C)C","level": "medium","name": "Rauhut-Currier Reaction","reactants_smiles": ["N(CC)CCC(=O)C=C(C#N)OC","CC(=O)C(F)=C(C1CCCCC1)C#N","P(CC(C)C)(CC(C)C)CC(C)C"],"products_smiles": ["N(CC)CCC(=O)C(=C(C#N)OC)C(C#N)(C1CCCCC1)C(F)C(=O)C"],"conditions": "Nucleophilic Catalyst (e.g., P(n-Bu)3)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(CC)CCC([O-])=CC(C#N)(OC)[P+](CC(C)C)(CC(C)C)CC(C)C","step_weight": 0,"rationale": "The phosphine's lone pair attacks the β-position of the electron-deficient alkene, favored by conjugation with the carbonyl, forming a zwitterionic intermediate stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(CC)CCC(=O)C(C(C#N)(OC)([P+](CC(C)C)(CC(C)C)CC(C)C))C(C#N)(C1CCCCC1)C(F)=C([O-])C","step_weight": 0,"rationale": "The nucleophilic carbon in the phosphonium enolate intermediate attacks the β-position of the second activated alkene, driven by its strong electron-withdrawing carbonyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(CC)CCC([O-])=C(C(C#N)(OC)([P+](CC(C)C)(CC(C)C)CC(C)C))C(C#N)(C1CCCCC1)C(F)C(=O)C","step_weight": 0,"rationale": "Proton transfer occurs to stabilize the alkoxide and generate a neutral intermediate, facilitated by the basicity of the alkoxide and the acidity of nearby protons."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "N(CC)CCC(=O)C(=C(C#N)OC)C(C#N)(C1CCCCC1)C(F)C(=O)C","step_weight": 0,"rationale": "Elimination of the phosphine regenerates the catalyst, driven by formation of a conjugated enone system, which is thermodynamically favored due to extended π-delocalization."}],"description": "A nucleophilic phosphine catalyst activates an electron-deficient alkene toward conjugate addition, enabling C–C bond formation between two Michael acceptors. Subsequent proton transfer and elimination regenerate the catalyst, yielding the conjugated enone product under mild conditions with high atom economy."}
{"reaction_id": "NR-240_1-C1CCCCC1_2-c1nccs1_3-CCC_4-CCC(C)C_5-CC=C(C)C","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["C1CCCCC1C(=O)C(c1nccs1)[N+](CCC)(CCC(C)C)CC=C(C)C","[Li]N(C(C)C)C(C)C"],"products_smiles": ["C1CCCCC1C(=O)C(c1nccs1)(CC=C(C)C)N(CCC)(CCC(C)C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C([O-])=C(c1nccs1)[N+](CCC)(CCC(C)C)CC=C(C)C","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C1CCCCC1C(=O)C(c1nccs1)(CC=C(C)C)N(CCC)(CCC(C)C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
